US07811642B2
0.66 g of 4-{[6-(vinyloxy)hexyl]oxy}benzoic acid (2.5 mM) were dissolved in 25 ml of THF and 2.53 g of triethylamine (25.0 mM). The solution was cooled to −30° C. and 0.29 g of methansulfochloride (2.5 mM) were added dropwise. The mixture was stirred for 1 h during which the temperature was allowed to rise to −10° C. At this temperature, 0.88 g of 6-{[4-((E)-{4-[(4-hydroxybenzyl)amino]-1-naphthyl}diazenyl)benzoyl]oxy}hexyl 4-((E)-{4-[(4-hydroxybenzyl)amino]-1-naphthyl}diazenyl)-benzoate (1.0 mM) were added at once, followed by 10 mg of DMAP. The reaction mixture was allowed to warm to room temperature while stirred overnight. The next day, the mixture was filtered through a pad of celite filter aid and evaporated to dryness. The residue was dissolved in 15 ml of THF and to this solution were added dropwise 25 ml of methanol at room temperature. When addition was complete, the resulting suspension was stirred for 30 min. at room temperature and then the solids were filtered off, washed with methanol and dried to give 0.75 g (0.55 mM, 55%) of 6-[(4-{(E)-[4-({4-[(4-{[6-(vinyloxy)hexyl]oxy}benzoyl)oxy]benzyl}amino)-1-naphthyl]diazenyl}benzoyl)oxy]hexyl 4-{(E)-[4-({4-[(4-{[6-(vinyloxy)hexyl]oxy}benzoyl)oxy]benzyl}amino)-1-naphthyl]diazenyl}benzoate as red crystals, λmax=478 nm, ε=62000 (THF).

reactant | 4-{[6-(vinyloxy)hexyl]oxy}benzoic acid | 2.5 mM, 0.66 g | C(=C)OCCCCCCOC1=CC=C(C(=O)O)C=C1 | C15H20O4
reactant | 6-{[4-((E)-{4-[(4-hydroxybenzyl)amino]-1-naphthyl}diazenyl)benzoyl]oxy}hexyl 4-((E)-{4-[(4-hydroxybenzyl)amino]-1-naphthyl}diazenyl)-benzoate | 1.0 mM, 0.88 g | OC1=CC=C(CNC2=CC=C(C3=CC=CC=C23)/N=N/C2=CC=C(C(=O)OCCCCCCOC(C3=CC=C(C=C3)\N=N\C3=CC=C(C4=CC=CC=C34)NCC3=CC=C(C=C3)O)=O)C=C2)C=C1 | C54H48N6O6
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 25.0 mM, 2.53 g | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 6-[(4-{(E)-[4-({4-[(4-{[6-(vinyloxy)hexyl]oxy}benzoyl)oxy]benzyl}amino)-1-naphthyl]diazenyl}benzoyl)oxy]hexyl 4-{(E)-[4-({4-[(4-{[6-(vinyloxy)hexyl]oxy}benzoyl)oxy]benzyl}amino)-1-naphthyl]diazenyl}benzoate | 0.55 mM, 0.75 g, 55% | C(=C)OCCCCCCOC1=CC=C(C(=O)OC2=CC=C(CNC3=CC=C(C4=CC=CC=C34)/N=N/C3=CC=C(C(=O)OCCCCCCOC(C4=CC=C(C=C4)\N=N\C4=CC=C(C5=CC=CC=C45)NCC4=CC=C(C=C4)OC(C4=CC=C(C=C4)OCCCCCCOC=C)=O)=O)C=C3)C=C2)C=C1 | C84H84N6O12
